US04163846
Pivaloyl chloride (2,2-dimethylpropionyl chloride) (3.6 g) was added cautiously to a suspension of 3,5-diamino-4-cyano-1-methylpyrazole (4.1 g) in pyridine (25 ml). The temperature of the mixture rose to about 60°. The mixture was left to cool overnight and was then poured into a mixture of ice (60 g) and concentrated HCl (40 ml). The precipitate was filtered off, washed and dried, to give 3.9 g of crude 5-amino-4-cyano-3-(2,2-dimethylpropanoylamino)-1-methylpyrazole. Recrystallisation from a 70:30 ethanol/water mixture gave 3.1 g of pure product, mp 245°-247° C.

reactant | Pivaloyl chloride | 3.6 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3,5-diamino-4-cyano-1-methylpyrazole | 4.1 g | NC1=NN(C(=C1C#N)N)C | C5H7N5
reactant | HCl | 40 ml | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-4-cyano-3-(2,2-dimethylpropanoylamino)-1-methylpyrazole | 3.9 g | NC1=C(C(=NN1C)NC(C(C)(C)C)=O)C#N | C10H15N5O
